US08431596B2
N*5*-Cyclopentyl-N*2*-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine (XX-152)
In a microwave vial, N*5*-cyclopentyl-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine (0.07 g, 0.322 mmol), 1-(2-(4-bromophenoxy)ethyl)pyrrolidine (0.13 g, 0.483 mmol), bis(dibenzylideneacetone)palladium (0.01 g, 0.016 mmol), xantphos (0.019 g, 0.032 mmol) and sodium tert-butoxide (0.063 g, 0.644 mmol) were added successively. 1,4-Dioxane (1.2 mL) and dimethylacetamide (4 drops) were added and the vial was sealed and heated under microwave irradiation (1500° C., 10 min). The mixture was filtered and purified by preparatory HPLC. LCMS Method: 2: RT: 2.51 min, MI: 407 [M+1]. NMR 1H (DMSO): 1.55-1.75 (m, 10H), 2.03-2.08 (m, 2H), 2.55-2.65 (m, 4H), 2.84 (t, 2H), 3.93-4.00 (m, 1H), 4.01 (t, 2H), 6.10 (d, 1H), 6.15 (d, 1H), 6.69 (d, 1H), 6.87 (d, 2H), 7.37 (t, 1H), 7.63 (d, 2H), 9.17 (s, 1H).

reactant | N*5*-cyclopentyl-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine | 0.322 mmol, 0.07 g | C1(CCCC1)NC1=CC=CC=2N1N=C(N2)N | C11H15N5
reactant | 1-(2-(4-bromophenoxy)ethyl)pyrrolidine | 0.483 mmol, 0.13 g | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | xantphos | 0.032 mmol, 0.019 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 0.644 mmol, 0.063 g | CC(C)([O-])C.[Na+]
catalyst | dimethylacetamide | 4 drops | CC(=O)N(C)C | C4H9NO
catalyst | bis(dibenzylideneacetone)palladium | 0.016 mmol, 0.01 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | 1,4-Dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | N*5*-Cyclopentyl-N*2*-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine | C1(CCCC1)NC1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C23H30N6O
